US07462630B2
Synthesis of {[(1-ethyl-1-methylpropoxy)carbonyl]amino}acetic acid:
300 mg (1.30 mmol) of ethyl {[(1-ethyl-1-methylpropoxy)carbonyl]-amino}acetate was dissolved in 2.5 ml of a solvent mixture of methanol:water (2.3:1). 1.56 ml of 1 N aqueous lithium hydroxide solution was added to the obtained solution. After stirring at room temperature for 2 hours, “DOWEX” (50W-X2 100 to 200 mesh H form) (an exchange resin of The Dow Chemical Company) was added to the reaction mixture under gentle stirring until pH of the mixture had become 5. The resin was obtained by the filtration under suction and then the filtrate was concentrated under reduced pressure and then dried to obtain the title compound.

reactant | ethyl {[(1-ethyl-1-methylpropoxy)carbonyl]-amino}acetate | 1.30 mmol, 300 mg | C(C)C(CC)(OC(=O)NCC(=O)OCC)C | C11H21NO4
reactant | lithium hydroxide | 1 N, 1.56 ml | [OH-].[Li+]
solvent | methanol water | CO.O
product | {[(1-ethyl-1-methylpropoxy)carbonyl]amino}acetic acid | C(C)C(CC)(OC(=O)NCC(=O)O)C | C9H17NO4
